US06001839
A mixture of 4-chloro-7-isopropyl-5-(4-methoxyphenyl)pyrrolo-[2,3-d]pyrimidine (1.6 g), concentrated ammonia (80 ml, S.G. 0.880) and 1,4-dioxane (80 ml) was heated in a pressure vessel at 120° C. for 18 hours. The mixture was cooled to ambient temperature and the solvent was removed under reduced pressure to give a solid residue which was partitioned between ethyl acetate (100 ml) and water (100 ml). The aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with water, dried, filtered and evaporated to give 4-amino-7-isopropyl-5-(4-methoxyphenyl)pyrrolo[2,3-d]-pyrimidine. The structure was confirmed by 1H nmr.

reactant | 4-chloro-7-isopropyl-5-(4-methoxyphenyl)pyrrolo-[2,3-d]pyrimidine | 1.6 g | ClC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC)C(C)C | C16H16ClN3O
reactant | ammonia | 80 ml | N | H3N
solvent | 1,4-dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 4-amino-7-isopropyl-5-(4-methoxyphenyl)pyrrolo[2,3-d]-pyrimidine | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC)C(C)C | C16H18N4O
